US08202858B2
(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-{4-[3-(1-isobutyl-piperidin-4-yl)-propoxy]-3-methyl-phenyl}-methanone
A solution of isobutyraldehyde (0.36 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) was added to a solution of (3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperidin-4-yl-propoxy)-phenyl]-methanone hydrochloride (2.6 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) and DIEA (0.0026 ml). The mixture was stirred at room temperature for 1 h then a solution of sodium triacetoxyborohydride (1.59 mg, 0.0075 mmol) in DMF (0.05 ml) was added. The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=530.5

reactant | isobutyraldehyde | 0.005 mmol, 0.36 mg | C(C(C)C)=O | C4H8O
reactant | (3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperidin-4-yl-propoxy)-phenyl]-methanone hydrochloride | 0.005 mmol, 2.6 mg | Cl.CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(C=C3)OCCCC3CCNCC3)C
reactant | sodium triacetoxyborohydride | 0.0075 mmol, 1.59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | DIEA | 0.0026 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | (3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-{4-[3-(1-isobutyl-piperidin-4-yl)-propoxy]-3-methyl-phenyl}-methanone | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(C=C3)OCCCC3CCN(CC3)CC(C)C)C | C32H43N5O2
